US07700634B2
1-(Cyclohexyl)methyl-3-{5-[(diethylamino)methyl]-[1,3,4]-oxadiazol-2-yl}-7-methoxy-1H-indole, hydrochloride salt
To a solution of 3-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (92 mg, 0.26 mmol) in tetrahydrofuran (1 ml) was added diethylamine (0.134 ml, 1.28 mmol) and the reaction mixture subjected to microwave irradiation at 150° C. for 15 minutes. The resulting mixture was purified by flash column chromatography to afford the title compound (87 mg, 0.22 mmol) as the free base. The free base was dissolved in dichloromethane and hydrogen chloride (2M solution in diethyl ether; 1 ml, 2 mmol) was added. The excess reagent and solvent were removed by evaporation to the leave the title compound (1:1 hydrochloride salt) as a white solid. 1H NMR (400 MHz, CD3OD): 0.97-1.12 (2H, m), 1.15-1.26 (3H, m), 1.46 (6H, t, J 7), 1.53-1.63 (2H, m), 1.63-1.78 (3H, m), 1.8-1.95 (1H, m), 3.44 (4H, q, J 7), 3.98 (3H, s), 4.33 (2H, d, J 7), 4.84 (2H, s), 6.85 (1H, d, J 7), 7.19 (1H, t, J 7.9), 7.73 (1H, d, J 8), 7.94 (1H, s); EsIMS: m/z 397.1 [M+H]+, 324.4, 270.5.

reactant | 3-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole | 0.26 mmol, 92 mg | ClCC1=NN=C(O1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C19H22ClN3O2
reactant | diethylamine | 1.28 mmol, 0.134 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-(Cyclohexyl)methyl-3-{5-[(diethylamino)methyl]-[1,3,4]-oxadiazol-2-yl}-7-methoxy-1H-indole, hydrochloride salt | 0.22 mmol, 87 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1OC(=NN1)CN(CC)CC | InChI=1S/C23H32N4O2.ClH/c1-4-26(5-2)16-21-24-25-23(29-21)19-15-27(14-17-10-7-6-8-11-17)22-18(19)12-9-13-20(22)28-3;/h9,12-13,15,17H,4-8,10-11,14,16H2,1-3H3;1H
